US07528134B2
2-[4-(2-methoxyphenyl)-1-piperazinyl]-N-(3-methylphenyl)acetamide
1-(2-methoxyphenyl)piperazine, (Aldrich, 1.50 g, 7.80 mmol) and N,N-diisopropylethylamine (2.0 mL) in toluene (30 mL) were treated with the product from Example 1A (1.12 g, 4.90 mmol) and heated at 60° C. for 18 hours. The mixture was allowed to cool to room temperature, transferred to a separatory funnel and washed with saturated aqueous sodium bicarbonate. The organic phase was dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution with 85% hexanes:ethyl acetate then 50% hexanes:ethyl acetate) to provide 1.39 g (83% yield) of the title compound as a yellow oil. 1H NMR (300 MHz, DMSO-d6) δ 2.28 (s, 3H), 2.67 (m, 4H), 3.03 (m, 4H), 3.17 (s, 2H), 3.77 (s, 3H), 6.89 (m, 5H), 7.18 (dd, 1H, J=7.8, 7.8 Hz), 7.44 (m, 2H), 9.64 (br s, 1H); MS (DCI/NH3) m/e 340 (M+H)+.

reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N,N-diisopropylethylamine | 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(2-methoxyphenyl)-1-piperazinyl]-N-(3-methylphenyl)acetamide | 1.39 g, 83% yield | COC1=C(C=CC=C1)N1CCN(CC1)CC(=O)NC1=CC(=CC=C1)C | C20H25N3O2
